US07309717B2
To a solution of ethyl chrysanthemumate (163.1 g) in acetone (600 mL) at 20° C. was added potassium permanganate (KMnO4) (472.7 g) as a solid in 9 equal portions. After each addition of KMnO4, the exotherm that ensued was allowed to subside before the addition of the next portion of KMnO4. Upon completion of KMnO4 addition, the reaction mixture was stirred for another 2 hours and then filtered. The solid cake was washed with acetone (450 mL) and suction dried. The dried solid was mixed with sodium sulfite (Na2SO3) (364.3 g), and the solid mixture was added in portions to 30% sulfuric acid (H2SO4) (960 mL) while maintaining the temperature below 65° C. Ethyl acetate (EtOAc) (1000 mL) was added, and the mixture was filtered through celite. The layers were separated and the aqueous layer was washed with EtOAc (600 mL). The combined organic solutions were dried over anhydrous sodium sulfate and concentrated to an oil (158.6 g). This oil was treated with 45% sodium hydroxide solution (NaOH) (240 mL) and water (100 mL) at 85° C. for about 30 min. The reaction mixture was cooled, acidified to pH 3 with 30% sulfuric acid (about 300 mL) and further extracted three times with EtOAc (450 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated to give caronic acid (162.6 g) as a mixture of cis- and trans-isomers. 1H NMR (400 MHz, CD3OD); cis-isomer δ 1.26 (s, 3H), 1.40 (s, 3H), 1.96 (s, 2H); trans-isomer δ 1.32 (s, 6H), 2.19 (s, 2H).

reactant | ethyl chrysanthemumate | 163.1 g | CCOC(=O)C1C(C1(C)C)C=C(C)C | C12H20O2
reactant | potassium permanganate | 472.7 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | acetone | 600 mL | CC(=O)C | C3H6O
product | caronic acid | 162.6 g | CC1(C(C1C(=O)O)C(=O)O)C | C7H10O4
